US04551460
A dry 250 ml B 3-neck flask was fitted with a gas inlet tube extending nearly to the bottom of the flask and was charged with 9.81 ml of 3-bromopyridine, 11.8 g of 5-hexyn-1-ol, 40 ml of distilled triethylamine and 60 ml of dichloromethane. The mixture was degassed with argon for 15 minutes and 0.70 g of bis(triphenylphosphine)palladium dichloride and 0.13 g of cuprous iodide were added. The flask was evacuated and filled three times with argon and the reaction was heated to reflux for 2 hours. The cooled mixture was diluted with dichloromethane and was washed with water and brine, dried (potassium carbonate) and concentrated to 20 g of a dark red oil which was used directly in the next step. A portion was chromatographed over 70 g of silica gel eluting with 1:1 ethyl acetate-hexane containing 1% triethylamine to yield a colorless oil which was evaporatively distilled, bp 145°-150° C./0.1 mm to give an analytical sample of 6-(3-pyridinyl)-5-hexyn-1-ol.

reactant | 3-bromopyridine | 9.81 ml | BrC=1C=NC=CC1 | C5H4BrN
reactant | 5-hexyn-1-ol | 11.8 g | C(CCCC#C)O | C6H10O
reactant | triethylamine | 40 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 6-(3-pyridinyl)-5-hexyn-1-ol | N1=CC(=CC=C1)C#CCCCCO | C11H13NO
